US07199239B2
Intermediate 11: Ethyl 2-{4-[(butylamino)methyl]-2-methylphenoxy}-2-methylpropanoate
To a solution of ethyl 2-(4-formyl-2-methylphenoxy)-2-methylpropanoate (0.56 g, 2.25 mmol) in anhydrous CH2Cl2 (10 mL) was added n-butylamine (0.33 mL, 3.38 mmol). After stirring for 90 mins under nitrogen at room temperature, sodium triacetoxyborohydride (0.668 g, 3.15 mmol) was added and stirring continued for 18 h. The reaction was quenched by cautious addition of sat. sodium carbonate aq. (20 mL) and then extracted CH2Cl2 (2×40 mL). The organic solution was dried (MgSO4) and the solvents removed in vacuo to afford the title compound as a pale yellow oil (0.48 g).

reactant | ethyl 2-(4-formyl-2-methylphenoxy)-2-methylpropanoate | 2.25 mmol, 0.56 g | C(=O)C1=CC(=C(OC(C(=O)OCC)(C)C)C=C1)C | C14H18O4
reactant | n-butylamine | 3.38 mmol, 0.33 mL | C(CCC)N | C4H11N
reactant | sodium triacetoxyborohydride | 3.15 mmol, 0.668 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-{4-[(butylamino)methyl]-2-methylphenoxy}-2-methylpropanoate | 0.48 g | C(CCC)NCC1=CC(=C(OC(C(=O)OCC)(C)C)C=C1)C | C18H29NO3
